US07968577B2
To a solution of 4-fluorophenyl)magnesium bromide (1M in THF, 10.6 ml. 10.6 mmol) at 0° C. was added a solution of 4-morpholinobenzaldehyde (1 g, 5.233 mmol) in THF (10 ml) dropwise. After being stirred at 0° C. for 10 minutes and room temperature for 4 hours, the reaction mixture was poured onto an iced aqueous NH4Cl. The solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4 and concentrated to give (4-chlorophenyl)(4-morpholinophenyl)methanol as a pinkish white solid (1.49 g, 99 yield). HPLC (Column: Shimadzu VP-0DS, C-18 Ballistic; 10-90% aq CH3OH/0.1% H3PO4, same for compounds hereafter unless noted) Rt: 2.117 min.

reactant | magnesium bromide | 10.6 mmol, 1M, 10.6 ml | [Br-].[Mg+2].[Br-]
reactant | 4-morpholinobenzaldehyde | 5.233 mmol, 1 g | O1CCN(CC1)C1=CC=C(C=O)C=C1 | C11H13NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (4-chlorophenyl)(4-morpholinophenyl)methanol | ClC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)N1CCOCC1 | C17H18ClNO2
